US08729102B2
A) (2-bromo-4-hydroxyphenyl)acetic acid
A dichloromethane solution (1.0 M, 150 mL) of tribromoborane was added dropwise to a solution of (2-bromo-4-methoxyphenyl)acetic acid (15.0 g) in dichloromethane (160 mL) at room temperature, and the reaction mixture was refluxed for 3 hr, allowed to cool to room temperature, and poured into ice water. The mixture was extracted with ethyl acetate, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained yellow solid was collected by filtration and washed with hexane-diethyl ether to give the title compound (10.3 g).

reactant | tribromoborane | BrB(Br)Br | BBr3
reactant | (2-bromo-4-methoxyphenyl)acetic acid | 15.0 g | BrC1=C(C=CC(=C1)OC)CC(=O)O | C9H9BrO3
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 M, 150 mL | ClCCl | CH2Cl2
product | (2-bromo-4-hydroxyphenyl)acetic acid | 10.3 g | BrC1=C(C=CC(=C1)O)CC(=O)O | C8H7BrO3
